US05804632
An initiator solution of cyanovaleric acid sodium salt was prepared in a round bottomed flask under nitrogen by taking cyanovaleric acid (6.2 g), sodium hydroxide aq solution (33.2 ml, 1moldm-3) and water (84cm3).

reactant | cyanovaleric acid | 6.2 g | C(#N)C(C(=O)O)CCC | C6H9NO2
reactant | sodium hydroxide | 1moldm-3, 33.2 ml | [OH-].[Na+]
solvent | water | 84cm3 | O | H2O
product | cyanovaleric acid sodium salt | [Na+].C(#N)C(C(=O)[O-])CCC | InChI=1S/C6H9NO2.Na/c1-2-3-5(4-7)6(8)9;/h5H,2-3H2,1H3,(H,8,9);/q;+1/p-1
